US05922720
10. 2-{[[4-[3-(4-Benzylpiperidin-1-yl)propylthio]-3-methoxy-2-pyridinyl]methyl]thio}-1H-benzimidazole
According to the procedure indicated in Example 1), reaction of 2-{[[4-(3-chloropropylthio)-3-methoxy-2-pyridinyl]methyl]thio}-1H-benzimidazole with N-benzylpiperidine gives the title compound; beige powder; m.p. 73-75° C. (hydrated).

reactant | 2-{[[4-(3-chloropropylthio)-3-methoxy-2-pyridinyl]methyl]thio}-1H-benzimidazole | ClCCCSC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)OC | C17H18ClN3OS2
reactant | N-benzylpiperidine | C(C1=CC=CC=C1)N1CCCCC1 | C12H17N
product | 2-{[[4-[3-(4-Benzylpiperidin-1-yl)propylthio]-3-methoxy-2-pyridinyl]methyl]thio}-1H-benzimidazole | C(C1=CC=CC=C1)C1CCN(CC1)CCCSC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)OC | C29H34N4OS2
